US08076360B2
To a solution of 53 mg (0.16 mmol) of 5-chloro-7-morpholin-4-ylmethyl-1H-indole-2-carboxylic acid ethyl ester in THF/EtOH/H2O (2.5 ml) at RT was added 21 mg of LiOH.H2O. The reaction mixture was stirred at 45° C. for one hour and then acidified with aqueous HCl 1M. The product was extracted with EtOAc and concentrated under vacuo to afford 12 mg (25%) of 5-chloro-7-morpholin-4-ylmethyl-1H-indole-2-carboxylic acid as a white solid. ES-MS m/e (%): 293.1 (M−H+).

reactant | 5-chloro-7-morpholin-4-ylmethyl-1H-indole-2-carboxylic acid ethyl ester | 0.16 mmol, 53 mg | C(C)OC(=O)C=1NC2=C(C=C(C=C2C1)Cl)CN1CCOCC1 | C16H19ClN2O3
reactant | LiOH.H2O | 21 mg | O[Li].O
reactant | HCl | 1M | Cl | ClH
solvent | THF EtOH H2O | 2.5 ml | C1CCOC1.CCO.O
product | 5-chloro-7-morpholin-4-ylmethyl-1H-indole-2-carboxylic acid | 12 mg, 25% | ClC=1C=C2C=C(NC2=C(C1)CN1CCOCC1)C(=O)O | C14H15ClN2O3
